US07420001B2
3-Methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester (380 mg, 1 mmol) was mixed with K2CO3 (280 mg, 2 mmol), 3-nitro-phenylboronic acid (334 mg, 2 mmol), Pd(Ph3)4 (115 mg, 0.1 mmol), 4 mL of 1,2-dimethoxyethane and 5 drops of water. The mixture was heated and stirred in an 85° C. oil bath for 3 h. The reaction mixture was poured into water and was extracted with ethyl acetate. The organic extract was washed with water and dried over sodium sulfate. Removal of solvent gave the crude product, which was purified by column chromatography to give 310 mg (88% yield) of 3-methyl-4-(3-nitro-phenyl)-benzofuran-2-carboxylic acid tert-butyl ester, obtained as white solid.

reactant | 3-Methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester | 1 mmol, 380 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C15H15F3O6S
reactant | K2CO3 | 2 mmol, 280 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-nitro-phenylboronic acid | 2 mmol, 334 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
catalyst | water | 5 drops | O | H2O
solvent | water | O | H2O
product | 3-methyl-4-(3-nitro-phenyl)-benzofuran-2-carboxylic acid tert-butyl ester | 310 mg, 88% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C20H19NO5
